US07253286B2
N-(3-(6,7-Dimethoxyquinolin-4-yl)oxypropyl)-N′-(4-fluorophenyl)urea
6,7-Dimethoxy-4-(3-aminopropoxy)quinoline 150 mg (0.57 mM) and ethyl acetate (20 ml) were stirred at room temperature, and then 4-fluorophenyl isocyanate (0.078 ml, 0.68 mM) was added and the mixture was further stirred for 15 minutes. The precipitated solid was filtered out to obtain the target substance (92 mg) as a white solid.

reactant | 6,7-Dimethoxy-4-(3-aminopropoxy)quinoline | 0.57 mM, 150 mg | COC=1C=C2C(=CC=NC2=CC1OC)OCCCN | C14H18N2O3
reactant | 4-fluorophenyl isocyanate | 0.68 mM, 0.078 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-(6,7-Dimethoxyquinolin-4-yl)oxypropyl)-N′-(4-fluorophenyl)urea | COC=1C=C2C(=CC=NC2=CC1OC)OCCCNC(=O)NC1=CC=C(C=C1)F | C21H22FN3O4
